US06159990
To a solution of 1-(3-amino-propyl)-4-(2-carbomethoxyphenyl)-piperazine (25 mg, 0.090 mmol) in 10 mL of THF, 4-(3,5-difluorophenyl)-2-oxo-oxazolidine-3-carboxylic acid-4-nitro-phenyl ester(30 mg, 0.082 mmol) was added and the resulting yellow solution was stirred under argon atmosphere for 2 h at room temperature. The solvent was removed in vacuo and the residue was purified by column chromatography over silica gel with 1:1 hexane/EtOAc followed by 1:9 MeOH/EtOAc (Rf =0.75, MeOH/EtOAc=1:3) to obtain 2-[4-(3-{[4-(3,5-difluoro-phenyl)-2-oxo-oxazolidine-3-carbonyl]-amino}-propyl)-piperazin-1-yl]-benzoic acid methyl ester (31 mg, 69%). The compound was dissolved in CH2Cl2 (3 mL) and was treated with 1N HCl in ether (1 mL). The solvent was removed in vacuo to give the corresponding hydrochloride salt as a yellow solid. M. P. 93-96° C.; [α]D =+45.3, (c=0.29, MeOH); Anal. Calcd. For C25H30N4O5F2Cl2.0.58 CH2Cl2 : C, 50.48; H, 5.16; N, 9.20. Found: C, 50.46; H, 5.56; N,8.91.

reactant | 1-(3-amino-propyl)-4-(2-carbomethoxyphenyl)-piperazine | 0.090 mmol, 25 mg | NCCCN1CCN(CC1)C1=C(C=CC=C1)C(=O)OC | C15H23N3O2
reactant | 4-(3,5-difluorophenyl)-2-oxo-oxazolidine-3-carboxylic acid-4-nitro-phenyl ester | 0.082 mmol, 30 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(OCC1C1=CC(=CC(=C1)F)F)=O | C16H10F2N2O6
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[4-(3-{[4-(3,5-difluoro-phenyl)-2-oxo-oxazolidine-3-carbonyl]-amino}-propyl)-piperazin-1-yl]-benzoic acid methyl ester | 31 mg, 69% | COC(C1=C(C=CC=C1)N1CCN(CC1)CCCNC(=O)N1C(OCC1C1=CC(=CC(=C1)F)F)=O)=O | C25H28F2N4O5
